US07576082B2
A solution of 3,5-dimethoxyphenyl magnesium bromide in tetrahydrofuran (1.0 M, 6.9 mmol) (Aldrich) was added dropwise with magnetic stirring to a suspension of 6-chloroisatin (0.5 g, 2.76 mmol) in tetrahydrofuran (14 mL) under argon with cooling in a −25° C. bath at such a rate that reaction temperature was kept below −10° C. Cooling bath was then removed and mixture was allowed to warm to room temperature. After stirring for an additional 2 hours, 15% aqueous ammonium chloride solution and water were added and mixture extracted with ethyl acetate. Ethyl acetate layers were then washed with water, brine, combined, dried (Na2SO4), filtered and concentrated. Residue was stirred in dichloromethane at room temperature for 15 minutes and filtered to give crude rac-6-chloro-3-(3,5-dimethoxy-phenyl)-3-hydroxy-1,3-dihydro-indol-2-one as an off-white powder. This was used in the next step without further purification.

reactant | 3,5-dimethoxyphenyl magnesium bromide | COC=1C=C(C=C(C1)OC)[Mg]Br
reactant | 6-chloroisatin | 2.76 mmol, 0.5 g | ClC1=CC=C2C(C(NC2=C1)=O)=O | C8H4ClNO2
solvent | tetrahydrofuran | 14 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6.9 mmol, 1.0 M | O1CCCC1 | C4H8O
product | rac-6-chloro-3-(3,5-dimethoxy-phenyl)-3-hydroxy-1,3-dihydro-indol-2-one | ClC1=CC=C2C(C(NC2=C1)=O)(O)C1=CC(=CC(=C1)OC)OC | C16H14ClNO4
